US06133258
The reaction procedure of Example 11 was followed except that 428 mg of 2-(4-methoxyanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 14 mg of lithium hydride and 0.18 ml of benzyl bromide were used. As a result, 295 mg of 3-benzyl-2-[(4-methoxyphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 174 mg of 2-[N-benzyl-N-(4-methoxyphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance.

reactant | 2-(4-methoxyanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 428 mg | COC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C14H11N3O2S
reactant | lithium hydride | 14 mg | [H-].[Li+]
reactant | benzyl bromide | 0.18 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-2-[(4-methoxyphenyl)imino]-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 295 mg | C(C1=CC=CC=C1)N1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)OC | C21H17N3O2S
